2105-02-20 10:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Intubated last PM for worsening tachypnea, persistent hypoxemia
   Intitially difficult to oxygenate, but much improved with improved
   sedation
   Now off dilt gtt
   24 Hour Events:
 EKG - At [**2105-2-19**] 10:00 PM
 INVASIVE VENTILATION - START [**2105-2-19**] 10:30 PM
 ARTERIAL LINE - START [**2105-2-19**] 11:28 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Beta-Blockers (Beta-Adrenergic Blocking Agts)
   Unknown;
   Terazosin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2105-2-19**] 09:10 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2105-2-20**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 70 (66 - 105) bpm
   BP: 88/44(58) {88/44(58) - 103/49(66)} mmHg
   RR: 26 (17 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
                                                                    494 mL
                                                                  1,063 mL
   PO:
             TF:
   IVF:
                                                                    494 mL
                                                                  1,063 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    230 mL
   Urine:
                                                                  1,040 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -546 mL
                                                                    833 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 350 (350 - 350) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.43/50/67/32/7
   Ve: 7.6 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   294 K/uL
   164 mg/dL
   1.2 mg/dL
   32 mEq/L
   3.4 mEq/L
   47 mg/dL
   109 mEq/L
   150 mEq/L
   28.6 %
   15.8 K/uL
        [image002.jpg]
                             [**2105-2-19**]  07:34 PM
                             [**2105-2-19**]  09:09 PM
                             [**2105-2-19**]  11:51 PM
                             [**2105-2-20**]  03:52 AM
                             [**2105-2-20**]  04:35 AM
   WBC
   25.3
   15.8
   Hct
   29.7
   28.6
   Plt
   308
   294
   Cr
   1.0
   1.2
   TropT
   0.54
   0.54
   TCO2
   32
   32
   34
   Glucose
   125
   164
   Other labs: PT / PTT / INR:16.5/31.0/1.5, CK / CKMB /
   Troponin-T:152/5/0.54, Differential-Neuts:90.1 %, Lymph:6.8 %, Mono:2.7
   %, Eos:0.3 %, Lactic Acid:1.7 mmol/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ATRIAL FIBRILLATION (AFIB)
   88 yo man with hypoxemic respiratory failure due likely combination of
   pneumonia and diastolic CHF.  Also with afib/RVR
   1. Respiratory Failure
   -Cont CTX/azithro
   -Cont efforts at diuresis
   -daily wake up --> currently off sedation
   2. Afib/RVR
   -Rate well controlled, off dilt gtt
   3. Hyoernatremia
   -Give back fH20
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2105-2-19**] 06:36 PM
   20 Gauge - [**2105-2-19**] 06:36 PM
   Arterial Line - [**2105-2-19**] 11:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2105-02-22 10:59:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure, CAP, afib RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2105-2-21**] 12:15 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Beta-Blockers (Beta-Adrenergic Blocking Agts)
   Unknown;
   Terazosin
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-2-22**] 07:50 AM
   Azithromycin - [**2105-2-22**] 08:30 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2105-2-21**] 05:15 PM
   Famotidine (Pepcid) - [**2105-2-22**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2105-2-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-2-22**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 82 (79 - 102) bpm
   BP: 135/71(98) {126/53(82) - 164/75(106)} mmHg
   RR: 27 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 55.6 kg (admission): 55.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,248 mL
                                                                    494 mL
   PO:
             TF:
   IVF:
                                                                  1,128 mL
                                                                    494 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    425 mL
   Urine:
                                                                  2,450 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,202 mL
                                                                     69 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   FiO2: 100%
   SpO2: 98%
   ABG: 7.48/50/78.[**Numeric Identifier 7**]/32/11
   PaO2 / FiO2: 79
   Physical Examination
   General Appearance: Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   278 K/uL
   109 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.9 mEq/L
   31 mg/dL
   107 mEq/L
   148 mEq/L
   29.8 %
   14.4 K/uL
        [image002.jpg]
                             [**2105-2-20**]  05:27 PM
                             [**2105-2-20**]  05:47 PM
                             [**2105-2-21**]  03:35 AM
                             [**2105-2-21**]  03:50 AM
                             [**2105-2-21**]  08:49 AM
                             [**2105-2-21**]  11:24 AM
                             [**2105-2-21**]  12:37 PM
                             [**2105-2-21**]  01:16 PM
                             [**2105-2-22**]  03:14 AM
                             [**2105-2-22**]  03:41 AM
   WBC
   13.3
   14.4
   Hct
   29.1
   29.8
   Plt
   309
   278
   Cr
   1.1
   1.1
   1.0
   0.8
   TropT
   0.45
   TCO2
   35
   35
   37
   35
   37
   38
   Glucose
   124
   104
   98
   109
   Other labs: PT / PTT / INR:15.6/41.1/1.4, CK / CKMB /
   Troponin-T:377/5/0.45, Differential-Neuts:80.1 %, Band:0.0 %,
   Lymph:15.0 %, Mono:3.1 %, Eos:1.3 %, Lactic Acid:1.8 mmol/L, Ca++:8.8
   mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   88 yo man with hypoxemic respiratory failure due likely combination of
   pneumonia and diastolic CHF.  Also with afib/RVR
   1. Respiratory Failure
   -Extubated successfully
   -Cont CTX/azithro empirically pending cx results
   -Cont diuresis
   2. Afib/RVR
   -Rate well controlled
   -transitioned to po dilt
   -on amiodarone - holding per cardiology
   -coumadin restarted
   -cardiology following
   3. Hypertension
    -cont current meds
   4. Hypernatremia
   -improving with fH20
   -encourage H20 intake
   5. Access
   -PICC placed
   -aline
   6. Mental status
   -improved with sedation wean
   7. Met alkalosis
   -? Contraction from diuresis
   -has compensatory mild resp acidosis
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-2-19**] 11:28 PM
   20 Gauge - [**2105-2-21**] 05:00 PM
   PICC Line - [**2105-2-22**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2105-02-23 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2105-2-22**] 09:00 AM
   [**2105-2-22**]
   - Continues to show contraction alkalosis on labs - no diuresis
   - Allowed to autoregulate with respect to fluid balance now that he is
   taking full diet.
   - Urine output barely adequate at average > 30 cc/hr, but encourage PO
   fluids in a.m.
   - Slightly confused and desaturated to 92% on FiO2 70%. Therefore back
   up to 100%.
   - Primary etiology of poor gas exchange not clear. PE ruled out in OSH.
   PFTs normal in [**2104**]. Pneumonitis/interstitial disease seem most likely.
   Allergies:
   Beta-Blockers (Beta-Adrenergic Blocking Agts)
   Unknown;
   Terazosin
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-2-22**] 07:50 AM
   Azithromycin - [**2105-2-22**] 08:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2105-2-22**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2105-2-22**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-2-23**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 100 (79 - 101) bpm
   BP: 124/89(106) {122/52(83) - 159/110(126)} mmHg
   RR: 23 (15 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 55.6 kg (admission): 55.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,664 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                  1,544 mL
   Blood products:
   Total out:
                                                                    930 mL
                                                                    210 mL
   Urine:
                                                                    930 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    734 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.51/44/81.[**Numeric Identifier 252**]/30/10
   PaO2 / FiO2: 162
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   315 K/uL
   10.0 g/dL
   117 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.8 mEq/L
   22 mg/dL
   103 mEq/L
   143 mEq/L
   30.1 %
   13.5 K/uL
        [image002.jpg]
                             [**2105-2-21**]  03:50 AM
                             [**2105-2-21**]  08:49 AM
                             [**2105-2-21**]  11:24 AM
                             [**2105-2-21**]  12:37 PM
                             [**2105-2-21**]  01:16 PM
                             [**2105-2-22**]  03:14 AM
                             [**2105-2-22**]  03:41 AM
                             [**2105-2-22**]  11:32 AM
                             [**2105-2-22**]  04:00 PM
                             [**2105-2-23**]  02:50 AM
   WBC
   14.4
   13.5
   Hct
   29.8
   30.1
   Plt
   278
   315
   Cr
   1.0
   0.8
   0.7
   0.6
   TCO2
   35
   37
   35
   37
   38
   26
   36
   Glucose
   98
   109
   131
   117
   Other labs: PT / PTT / INR:16.0/36.4/1.4, CK / CKMB /
   Troponin-T:377/5/0.45, Differential-Neuts:80.1 %, Band:0.0 %,
   Lymph:15.0 %, Mono:3.1 %, Eos:1.3 %, Lactic Acid:1.8 mmol/L, Ca++:8.6
   mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR [**2-23**]
   Microbiology: URINE CULTURE (Final [**2105-2-21**]):    NO GROWTH.   Source:
   Catheter.
   Legionella Urinary Antigen  (Final [**2105-2-21**]):  NEGATIVE FOR LEGIONELLA
   SEROGROUP 1 ANTIGEN.
   Assessment and Plan
   88 year old male with CAD s/p CABG, remote smoking history, atrial
   fibrillation, [**Hospital 1605**] transferred from [**Hospital1 **] [**Location (un) 3**] with hypoxia after being
   treated for a CAP
   # Hypoxia
   Overall appears much improved, tolerated extubation without difficulty.
   Has been difficult to wean O2. Question multifocal PNA or if acute
   decompensated heart failure. BNP elevated, but difficult to interpret
   in the setting of atrial fibrillation with RVR. His TTE showed
   preserved systolic function but it is feasible he has diastolic
   dysfunction and he flashes in the setting of poorly controlled atrial
   fibrillation. Also need to consider amiodarone induced pneumonitis.
   ROMI complete and negative. Of note had a CTA at OSH negative for PE
   - Wean 02 as tolerated.
   - Lasix hold currently, patient without signs of volume overlode.
   - Trend CXR
   - Continue CAP coverage with Azithromycin and Ceftriaxone, (Day 1=26)
   # Atrial fibrillation with RVR
   - PO diltiazem for rate control, may start low dose beta blocker if
   more rate control needed.
   - Restart Coumadin
   - Hold Amiodarone while inpatient
   # CAD s/p CABG
   - Follow up outpatient records regarding cardiac regimen
   # Hypernatremia. Elevated. Encourage Free Water. 1 liter free water at
   100cc/hr.
   # HTN
   - As above
   # FEN: IVF prn, replete electrolytes, NPO
   # Access: Peripherals, arterial line
   # Communication: Patient, patient
s family
   # Code: Confirmed full code
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-2-19**] 11:28 PM
   20 Gauge - [**2105-2-21**] 05:00 PM
   PICC Line - [**2105-2-22**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: